US09371333B2
7-Amino-5-(3-bromo-4,5-dimethoxy-phenyl)-2,4-dimethyl-5H-pyrano[2,3-d]pyrimidine-6-carbonitrile (14)
4-Hydroxy-2,6-dimethylpyrimidine (546 mg, 4.4 mmol), 3-bromo-4,5-dimethoxy-benzaldehyde (1077 mg, 4.4 mmol) and malononitrile (295 mg, 4.4 mmol) were taken in 2 ml ethanol at room temperature, charged with DABCO (48.4 μl, 1.46 mmol) and then stirred at 80° C. under LC-MS control for 18 h. The reaction mixture was then cooled down to room temperature. The mixture was diluted with water to about 100 ml, stirred at room temperature for 1 h and the precipitates were separated by filtration. It was washed well with 50% aqueous ethanol and dried under vacuum (1.52 g, 3.64 mmol, 82.8%).

reactant | 4-Hydroxy-2,6-dimethylpyrimidine | 4.4 mmol, 546 mg | OC1=NC(=NC(=C1)C)C | C6H8N2O
reactant | 3-bromo-4,5-dimethoxy-benzaldehyde | 4.4 mmol, 1077 mg | BrC=1C=C(C=O)C=C(C1OC)OC | C9H9BrO3
reactant | malononitrile | 4.4 mmol, 295 mg | C(CC#N)#N | C3H2N2
reactant | DABCO | 1.46 mmol, 48.4 μl | C1CN2CCN1CC2 | C6H12N2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 7-Amino-5-(3-bromo-4,5-dimethoxy-phenyl)-2,4-dimethyl-5H-pyrano[2,3-d]pyrimidine-6-carbonitrile | NC1=C(C(C2=C(N=C(N=C2C)C)O1)C1=CC(=C(C(=C1)OC)OC)Br)C#N | C18H17BrN4O3
